US07589076B2
4-(nitro)phenyl 4-(prop-2-ynyl)piperidine-1-carboxylate.
4-(nitro)phenyl chloroformate (5.0 g, 24.8 mmol) was added to a solution of tert-butyl 4-(prop-2-ynyl)piperidine-1-carboxylate (4.25 g, 19.0 mmol) according to general procedure 1. Yield=5.72 g, 80%. m/z MH+=289.04. HPLC rt=10.4 min.

reactant | 4-(nitro)phenyl chloroformate | 24.8 mmol, 5.0 g | ClC(=O)OC1=CC=C(C=C1)[N+](=O)[O-] | C7H4ClNO4
reactant | tert-butyl 4-(prop-2-ynyl)piperidine-1-carboxylate | 19.0 mmol, 4.25 g | C(C#C)C1CCN(CC1)C(=O)OC(C)(C)C | C13H21NO2
product | 4-(nitro)phenyl 4-(prop-2-ynyl)piperidine-1-carboxylate | C(C#C)C1CCN(CC1)C(=O)OC1=CC=C(C=C1)[N+](=O)[O-] | C15H16N2O4
